US06593465B1
Digoxin Dialdehyde
To a solution of digoxin (2.30 g, 2.95 mmol, Sigma Chemical Co., St. Louis, Mo.) in 24 mL of chloroform:methanol (1:1) was added sodium periodate (0.699 g, 3.27 mmol, Aldrich Chemical Co.) and 1.0 mL water. The solution was stirred at room temperature for 18 hr. The sodium iodate precipitate was removed via filtration. Following solvent removal on rotary evaporator the residue was dissolved in 50 mL chloroform, washed 1×8 mL water, and dried over magnesium sulfate. The solvent was removed on a rotary evaporator and the residue was recrystalized from chloroform/hexane resulting in the formation of an oil. Crystal formation was initiated by the addition of a small amount of diethyl ether yielding 2.22 g (96.6%) amorphous, white solid. TLC: silica gel; acetonitrile/water; 1/1; Rf=0.88 after development with 2,4-dinitrophenyl hydrazine (Aldrich Chemical Co.).

reactant | digoxin | 2.95 mmol, 2.30 g | C[C@@H]1[C@H]([C@H](C[C@@H](O1)O[C@@H]2[C@H](O[C@H](C[C@@H]2O)O[C@@H]3[C@H](O[C@H](C[C@@H]3O)O[C@H]4CC[C@]5([C@@H](C4)CC[C@@H]6[C@@H]5C[C@H]([C@]7([C@@]6(CC[C@@H]7C8=CC(=O)OC8)O)C)O)C)C)C)O)O | C41H64O14
reactant | sodium periodate | 3.27 mmol, 0.699 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 1.0 mL | O | H2O
solvent | chloroform methanol | 24 mL | C(Cl)(Cl)Cl.CO
product | Digoxin Dialdehyde | C[C@@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2CC[C@]3([C@@H](C2)CC[C@@H]4[C@@H]3C[C@H]([C@]5([C@@]4(CC[C@@H]5C6=CC(=O)OC6)O)C)O)C)O)O[C@H]7C[C@@H]([C@@H]([C@H](O7)C)OC(CC=O)OC(C)C=O)O | C41H62O14
